US08071588B2
A mixture of 1-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]cyclopropanecarboxylic acid (100 mg, 0.241 mmol), 1,1-dimethylethyl 4-{[3′-(aminomethyl)-3-biphenylyl]methyl}-1-piperidinecarboxylate (70.9 mg, 0.241 mmol), HBTU (110 mg, 0.289 mmol) and Et3N (0.101 mL, 0.722 mmol) in DCM (3 mL) was stirred at room temperature overnight. The reaction was quenched with saturated NaHCO3 and extracted with DCM twice. The combined organic layers were washed with brine and then concentrated under vacuum to give the crude residue. It was then purified with a Gilson HPLC (with 0.1% TFA in the solvents), eluting with 10 to 70% CH3CN in water at a flow rate of 20 mL/min. The product fractions were dried under GeneVac and then combined to give the intermediate 1,1-dimethylethyl 4-[(3′-{[({1-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]cyclopropyl}carbonyl)amino]methyl}-3-biphenylyl)methyl]-1-piperidinecarboxylate. It was then dissolved in 2 mL of 25% TFA in DCM and stirred at room temperature for 3 h. The crude products were purified with a Gilson HPLC (with 0.1% TFA in the solvents), eluting with 10 to 70% CH3CN in water at a flow rate of 20 mL/min. The product fractions were combined and washed with 1 N NaOH and extracted with ethyl acetate twice. The combined organic layers were washed with brine, dried over sodium sulfate, filtered and concentrated under vacuum to N1-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N1-{[3′-(4-piperidinylmethyl)-3-biphenylyl]methyl}-1,1-cyclopropanedicarboxamide as a solid (32 mg, 19.6%). LC-MS m/z 678 (M+H)+, 0.79 min (ret time).

reactant | 1-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]cyclopropanecarboxylic acid | 0.241 mmol, 100 mg | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2(CC2)C(=O)O)CC | C21H29N5O4
reactant | 1,1-dimethylethyl 4-{[3′-(aminomethyl)-3-biphenylyl]methyl}-1-piperidinecarboxylate | 0.241 mmol, 70.9 mg | NCC=1C=C(C=CC1)C1=CC(=CC=C1)CC1CCN(CC1)C(=O)OC(C)(C)C | C24H32N2O2
reactant | HBTU | 0.289 mmol, 110 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Et3N | 0.722 mmol, 0.101 mL | CCN(CC)CC | C6H15N
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | 1,1-dimethylethyl 4-[(3′-{[({1-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]cyclopropyl}carbonyl)amino]methyl}-3-biphenylyl)methyl]-1-piperidinecarboxylate | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2(CC2)C(=O)NCC=2C=C(C=CC2)C2=CC(=CC=C2)CC2CCN(CC2)C(=O)OC(C)(C)C)CC | C45H59N7O5
